US08252810B2
(1) (R)-(3-Benzyloxy-2-fluoropropoxy)-tert-butyldimethylsilane
After dissolving (S)-3-benzyloxy-2-fluoropropan-1-ol (CAS 197389-28-9) (6.00 g) and imidazole (2.44 g) in N,N-dimethylformamide (60 ml), the mixture was cooled on ice. Next, tert-butyldimethylchlorosilane (5.57 g) was added and the mixture was stirred at room temperature for 16 hours. Water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with water, a saturated aqueous solution of ammonium chloride, water and brine in that order and then dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography. The title compound (9.48 g) was thus obtained.

reactant | (S)-3-benzyloxy-2-fluoropropan-1-ol | 6.00 g | C(C1=CC=CC=C1)OC[C@H](CO)F | C10H13FO2
reactant | imidazole | 2.44 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 5.57 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-(3-Benzyloxy-2-fluoropropoxy)-tert-butyldimethylsilane | 9.48 g | C(C1=CC=CC=C1)OC[C@H](CO[Si](C)(C)C(C)(C)C)F | C16H27FO2Si
